US05218109
A solution of 82 mg of 20-methyl-1α,3β-diacetoxy-21-p-toluenesulfonyloxypregna-5,7-diene in 1.5 ml of diethyl ether was added dropwise, at -50° C. to -60° C., to a diethyl ether solution of diisoamylcopper lithium prepared from 100 mg of cuprous iodide and 0.9 ml of a 1.1N diethyl ether solution of isoamyllithium in 2 ml of diethyl ether. After stirring at -30° C. for 1 hour, the reaction mixture was poured into a cold aqueous solution of ammonium chloride, followed by extraction with diethyl ether. The extract was washed with 10% aqueous ammonia, water and an aqueous solution of sodium chloride, dried over sodium sulfate and concentrated. The residue was dissolved in 1 ml of methanol, 10 mg of potassium carbonate was added, and the mixture was stirred at ambient temperature for 10 hours. Thereafter, the isolation and purification procedure of Reference Example 8 was repeated to give 35 mg of cholesta-5,7-diene-1α,3β-diol, whose 1H NMR spectrum was identical with that obtained in Reference Example 8.

reactant | 20-methyl-1α,3β-diacetoxy-21-p-toluenesulfonyloxypregna-5,7-diene | 82 mg | CC(COS(=O)(=O)C1=CC=C(C=C1)C)[C@H]1CC[C@H]2C3=CC=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)OC(C)=O)OC(C)=O | C33H44O7S
reactant | diisoamylcopper lithium | [Li].C(CC(C)C)[Cu]CCC(C)C
reactant | isoamyllithium | C(CC(C)C)[Li]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | 1.5 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 2 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 1.1N | C(C)OCC | C4H10O
product | cholesta-5,7-diene-1α,3β-diol | 35 mg | CC(C)CCC[C@@H](C)[C@H]1CC[C@H]2C3=CC=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)O)O | C27H44O2
